US07863302B2
1-Cyclopropyl-5-hydroxy-2-methyl-1H-indole-3-carboxylic acid ethyl ester
Neat 3-cyclopropylamino-but-2-enoic acid ethyl ester (5.63 g, 33.2 mmol) is added to a mixture of p-benzoquinone (7.19 g, 66.5 mmol) and acetic acid (120 mL). The mixture is stirred at room temperature for 5 h and a dark solid is precipitated. The solid is washed with acetic acid and water, dried, adsorbed onto silica gel, and purified via flash chromatography eluting with dichloromethane. The product is triturated in dichloromethane-hexane to afford the title compound (440 mg, 21%). ES/MS m/e 260.0 (M+1)

reactant | 3-cyclopropylamino-but-2-enoic acid ethyl ester | 33.2 mmol, 5.63 g | C(C)OC(C=C(C)NC1CC1)=O | C9H15NO2
reactant | p-benzoquinone | 66.5 mmol, 7.19 g | C1(C=CC(C=C1)=O)=O | C6H4O2
solvent | acetic acid | 120 mL | C(C)(=O)O | C2H4O2
product | 1-Cyclopropyl-5-hydroxy-2-methyl-1H-indole-3-carboxylic acid ethyl ester | 440 mg, 21% | C(C)OC(=O)C1=C(N(C2=CC=C(C=C12)O)C1CC1)C | C15H17NO3
